US04649150
2-Methylsulfinyl-4-(4-nitrophenyl)-1H-imidazole
Hydrogen peroxide (36%, 100 ml) was added over a period of 2 hours, while stirring, to a hot (60° C.) solution of 2-methylthio-4-(4-nitro-phenyl)-1H-imidazole (19.6 g) in methanol (500 ml). After an additional 24 hours of heating at 60° C., the mixture was cooled to room temperature, filtered, and the filter cake was dried to give 16.1 g of the title compound.

reactant | Hydrogen peroxide | 100 ml | OO | H2O2
reactant | 2-methylthio-4-(4-nitro-phenyl)-1H-imidazole | 19.6 g | CSC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2S
solvent | methanol | 500 ml | CO | CH4O
product | 2-Methylsulfinyl-4-(4-nitrophenyl)-1H-imidazole | 16.1 g | CS(=O)C=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O3S
